* ADS gain/operating-point study: original finite circuit
* MOS instance terminal order is drain gate source body; one unit each.
Vdd vdd 0 DC 1 AC 0 
Vin in 0 DC 0.45000000000000001 AC 1 
Rsrc in gate 1000
Rload out 0 100000
Cload capnode 0 9.9999999999999998e-13
Idist 0 out DC 0 AC 0
Rs source 0 6951.6565509415113
Vn0d out n0d 0
Vn0g gate n0g 0
Vn0s source n0s 0
Vn0b 0 n0b 0
xn0 n0d n0g n0s n0b apm045_vtg_nmos w=2.4945485933293912e-06 l=3.2000000000000001e-07
Vn1d out n1d 0
Vn1g gate n1g 0
Vn1s source n1s 0
Vn1b 0 n1b 0
xn1 n1d n1g n1s n1b apm045_vtg_nmos w=2.4945485933293912e-06 l=3.2000000000000001e-07
Vbiasdiag pbias pdrive DC 0 AC 0
Rbias pbias 0 8198.3586936381707
Vr0d pbias r0d 0
Vr0g pbias r0g 0
Vr0s vdd r0s 0
Vr0b vdd r0b 0
xr0 r0d r0g r0s r0b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vr1d pbias r1d 0
Vr1g pbias r1g 0
Vr1s vdd r1s 0
Vr1b vdd r1b 0
xr1 r1d r1g r1s r1b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vr2d pbias r2d 0
Vr2g pbias r2g 0
Vr2s vdd r2s 0
Vr2b vdd r2b 0
xr2 r2d r2g r2s r2b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vr3d pbias r3d 0
Vr3g pbias r3g 0
Vr3s vdd r3s 0
Vr3b vdd r3b 0
xr3 r3d r3g r3s r3b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vr4d pbias r4d 0
Vr4g pbias r4g 0
Vr4s vdd r4s 0
Vr4b vdd r4b 0
xr4 r4d r4g r4s r4b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vp0d out p0d 0
Vp0g pdrive p0g 0
Vp0s vdd p0s 0
Vp0b vdd p0b 0
xp0 p0d p0g p0s p0b apm045_vtg_pmos w=1.9999999999999999e-06 l=2.3999999999999998e-07
Vcap out capnode 0
